US09290451B2
N-(1-Amino-2,3-dimethyl-1-oxobutan-2-yl)-5-cyclopropyl-6-(cyclopropylmethoxy)picolinamide
The title compound was synthesized in analogy to Example 1, using 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (Example 42 a) and 2-amino-2,3-dimethyl-butanamide (CAN 40963-14-2) as starting materials, LC-MS (UV peak area/ESI) 96%, 346.2136 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C13H15NO3
reactant | 2-amino-2,3-dimethyl-butanamide | NC(C(=O)N)(C(C)C)C | C6H14N2O
product | N-(1-Amino-2,3-dimethyl-1-oxobutan-2-yl)-5-cyclopropyl-6-(cyclopropylmethoxy)picolinamide | NC(C(C(C)C)(C)NC(C1=NC(=C(C=C1)C1CC1)OCC1CC1)=O)=O | C19H27N3O3
